US07122580B2
(S)-(2-Amino-5-bromo-benzoylamino)-3-(2′-phenoxy-biphenyl-4-yl)-propionic acid methyl ester (1.53 g, 80%) was prepared from (2S)-Amino-3-(2′-phenoxy-biphenyl-4-yl)-propionic acid methyl ester HCl salt (1.0 g, 2.6 mmol, 5-bromo-2-amino-benzoic acid (0.5 g, 2.9 mmol) as described in general procedure A.

reactant | (2S)-Amino-3-(2′-phenoxy-biphenyl-4-yl)-propionic acid methyl ester HCl salt | Cl.COC([C@H](CC1=CC=C(C=C1)C1=C(C=CC=C1)OC1=CC=CC=C1)N)=O
reactant | 5-bromo-2-amino-benzoic acid | 2.9 mmol, 0.5 g | BrC=1C=CC(=C(C(=O)O)C1)N | C7H6BrNO2
product | (S)-(2-Amino-5-bromo-benzoylamino)-3-(2′-phenoxy-biphenyl-4-yl)-propionic acid methyl ester | 1.53 g, 80% | COC([C@H](CC1=CC=C(C=C1)C1=C(C=CC=C1)OC1=CC=CC=C1)NC(C1=C(C=CC(=C1)Br)N)=O)=O | C29H25BrN2O4
